US05998140
Ethyl 1-methyl-4-nitroimidazole-2-carboxylate
Ethyl 1-methylimidazole-2-carboxylate was carefully dissolved in 1000 mL of concentrated sulfuric acid cooled to 0° C. 90% nitric acid (1 L) was slowly added maintaining a temperature of 0° C. The reaction was then refluxed with an efficient condenser (-20° C.) in a well ventilated hood for 50 min. The reaction was cooled with an ice bath, and quenched by pouring onto 10 L ice. The resulting blue solution was then extracted with 20 L DCM, the combined extracts dried (sodium sulfate) and concentrated in vacuo to yield a tan solid which was recrystallized from 22 L of 21:1 carbon tetrachloride/ethanol. The resulting white crystals are collected by vacuum filtration.

reactant | Ethyl 1-methylimidazole-2-carboxylate | CN1C(=NC=C1)C(=O)OCC | C7H10N2O2
reactant | nitric acid | 1 L | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 1000 mL | S(O)(O)(=O)=O | H2O4S
product | Ethyl 1-methyl-4-nitroimidazole-2-carboxylate | CN1C(=NC(=C1)[N+](=O)[O-])C(=O)OCC | C7H9N3O4
